US04404301
Preparation of dimethyl tetrahydrophthalate/bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate copolymer
Dimethyl tetrahydrophthalate 0.8 g (1/300 mole), bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate 2.1 g (1/200 mole) and 0.029 g of dicumyl peroxide were heated and stirred at 150° C. for five hours, and then cooled to obtain a pale yellow solid.

reactant | Dimethyl tetrahydrophthalate | 300 mole, 0.8 g | C(C1C(C(=O)OC)CCC=C1)(=O)OC | C10H14O4
reactant | bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate | 200 mole, 2.1 g | CN1C(CC(CC1(C)C)\C(=C(/C(=O)[O-])\C1CC(N(C(C1)(C)C)C)(C)C)\C(=O)[O-])(C)C
reactant | dicumyl peroxide | 0.029 g | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
product | dimethyl tetrahydrophthalate bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate | C(C1C(C(=O)OC)CCC=C1)(=O)OC.CN1C(CC(CC1(C)C)\C(=C(/C(=O)[O-])\C1CC(N(C(C1)(C)C)C)(C)C)\C(=O)[O-])(C)C | InChI=1S/C24H42N2O4.C10H14O4/c1-21(2)11-15(12-22(3,4)25(21)9)17(19(27)28)18(20(29)30)16-13-23(5,6)26(10)24(7,8)14-16;1-13-9(11)7-5-3-4-6-8(7)10(12)14-2/h15-16H,11-14H2,1-10H3,(H,27,28)(H,29,30);3,5,7-8H,4,6H2,1-2H3/p-2/b18-17+;
